US04348302
2-Ethylhexanoyl-ε-aminocaproic acid
113 g (1.0 mol) of ε-caprolactam are dissolved in 200 ml of water, and refluxed for 4 hours with 120 g (1.0 mol) of 33% sodium hydroxide solution. The batch is cooled to 20° C., and 158.4 g (0.975 mol) of 2-ethylhexanoic acid chloride as well as simultaneously about 120 g of 33% sodium hydroxide solution (for maintaining a pH of 12) are added dropwise within 1 hour at 20°-25° C. The solution is further stirred until no sodium hydroxide solution is consumed any longer, and subsequently acidified at 50° C. with semiconcentrated hydrochloric acid in order to obtain a pH of 1. Separation is carried out in warm state, and the acid is washed with 350 ml of water. Subsequently, it is dehydrated in a rotation evaporator at 75° C./100 mm Hg, and separated as nearly colorless viscous oil, which solidifies to crystals after some time. Yield 233 g (93%). Acid number 225, water content 0.4%.

reactant | ε-caprolactam | 1.0 mol, 113 g | C1(CCCCCN1)=O | C6H11NO
reactant | sodium hydroxide | 1.0 mol, 120 g | [OH-].[Na+]
reactant | 2-ethylhexanoic acid chloride | 0.975 mol, 158.4 g | C(C)C(C(=O)Cl)CCCC | C8H15ClO
reactant | sodium hydroxide | about 120 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-Ethylhexanoyl-ε-aminocaproic acid | C(C)C(C(=O)C(C(=O)O)CCCCN)CCCC | C14H27NO3
